US06858630B2
H-Trp-OtBu HCl
H-PhG-OtBu HCl for phenylalanine tert butyl ester hydrochloride, the following compounds were prepared:

reactant | H-PhG-OtBu HCl | CC(C)(C)OC(=O)[C@H](C1=CC=CC=C1)N.Cl
reactant | phenylalanine tert butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
product | H-Trp-OtBu HCl | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC(C)(C)C.Cl | InChI=1S/C15H20N2O2.ClH/c1-15(2,3)19-14(18)12(16)8-10-9-17-13-7-5-4-6-11(10)13;/h4-7,9,12,17H,8,16H2,1-3H3;1H/t12-;/m0./s1
